US09227972B2
Step B: 2′-Oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid
A solution of methyl 2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate (30.9 g, 73 mmol) in MeOH (400 mL) was saturated with HCl gas, allowing the internal temperature to increase to 55° C. The reaction mixture was cooled to ambient temperature, stirred for 20 h, then concentrated in vacuo. Aqueous 10 N sodium hydroxide (50 mL, 500 mmol) was added to a solution of the residue in MeOH (400 mL), and the resulting mixture was heated at reflux for 2 h. The solution was cooled to ambient temperature and the pH was adjusted to 3 with concentrated HCl. The resulting solid was filtered, washed with water then heptane, and dried to give the title compound. MS: m/z=282.2 (M+1).

reactant | methyl 2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | 73 mmol, 30.9 g | O=C1C2(C=3C(=NC=CC3)N1COCC[Si](C)(C)C)CC=1C(=NC=C(C1)C(=O)OC)C2 | C22H27N3O4Si
reactant | HCl | Cl | ClH
reactant | sodium hydroxide | 500 mmol, 10 N, 50 mL | [OH-].[Na+]
solvent | MeOH | 400 mL | CO | CH4O
solvent | MeOH | 400 mL | CO | CH4O
product | 2′-Oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid | O=C1C2(C=3C(=NC=CC3)N1)CC=1C(=NC=C(C1)C(=O)O)C2 | C15H11N3O3
